US06303627B1
1-benzyl-4-hydroxy-4-(6-methoxynaphth-2-yl)piperidine
A solution of 5.0 gm (21.1 mMol) 6-methoxy-4-bromonaphthalene in 120 mL tetrahydrofuran was first cooled to −78° C. and then 27.3 mL (46.4 mMol) tert-butyllithium (1.7 M in pentane) were added and the resulting solution stirred for about 1.5 hours. At this point a solution of 4.1 mL (22.1 mMol) 1-benzylpiperidin-4-one in 30 mL tetrahydrofuran was added and the reaction mixture was allowed to warm gradually to room temperature. After 3 hours the reaction was quenched by the addition of 2 N sodium hydroxide. The resulting mixture was extracted with diethyl ether. The organic extracts were combined, washed with saturated aqueous sodium chloride, and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing from 0 to 2% methanol. Fractions containing product were combined and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to provide 4.62 gm (63%) of the desired compound as a white solid.

reactant | 6-methoxy-4-bromonaphthalene | 21.1 mMol, 5.0 gm | COC=1C=C2C(=CC=CC2=CC1)Br | C11H9BrO
reactant | tert-butyllithium | 46.4 mMol, 1.7 M, 27.3 mL | C(C)(C)(C)[Li]
reactant | 1-benzylpiperidin-4-one | 22.1 mMol, 4.1 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-benzyl-4-hydroxy-4-(6-methoxynaphth-2-yl)piperidine | 4.62 gm, 63% | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)OC)O | C23H25NO2
